US05587389
d) 2-Chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride
10.0 g (0.042 mol) of 4-(2-furylmethylthio)-2-hydroxymethyl-3-methylpyridine are dissolved in dichloromethane (100 ml), 1.2 equivalents of thionyl chloride are added dropwise at RT, and the mixture is stirred at RT for 20 h. The mixture is concentrated fully, which gives the title compound as an oily residue which crystallizes slowly and which, if desired, can also be used directly as a solution in ethanol for the reaction with substituted 2-mercaptobenzimidazoles. For purification, it is recrystallized from hot isopropanol with an addition of active charcoal. This gives 9.0 g (74% of theory) of the title compound as colorless crystals of m.p. 159°-161° C. (decomp.).

reactant | 4-(2-furylmethylthio)-2-hydroxymethyl-3-methylpyridine | 0.042 mol, 10.0 g | O1C(=CC=C1)CSC1=C(C(=NC=C1)CO)C | C12H13NO2S
reactant | thionyl chloride | 1.2 equivalents | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-Chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)SCC=1OC=CC1 | InChI=1S/C12H12ClNOS.ClH/c1-9-11(7-13)14-5-4-12(9)16-8-10-3-2-6-15-10;/h2-6H,7-8H2,1H3;1H
